US07622486B2
Synthesis of [6-(3-methanesulfonyl-phenyl)-4-morpholin-4-yl-pyridin-2-yl]-(4-trifluoromethoxy-phenyl)-amine (B68)
To a solution of (6-chloro-4-morpholin-4-yl-pyridin-2-yl)-(4-trifluoromethoxy-phenyl)-amine (75 mg, 0.20 mmol) in 1,4-dioxane (8 mL) were added 2N sodium carbonate solution (0.5 mL) and tetrakis(triphenylphosphine)palladium(0) (11.6 mg, 0.010 mmol), followed by 3-methanesulfonyl phenyl boronic acid (48 mg, 0.24 mmol). The resulting reaction mixture was refluxed for 8 hours, after which time water was added (100 mL) to the reaction mixture, and the product was extracted with ethyl acetate (100 mL×3). The organic layer was dried over sodium sulphate, filtered, and the filtrate was concentrated under vacuum. The resulting product was purified by column chromatography using 230-400 mesh silica gel (elution 2:98 methanol:DCM) to afford the desired compound pale yellow solid (30 mg, yield 30%.).

reactant | (6-chloro-4-morpholin-4-yl-pyridin-2-yl)-(4-trifluoromethoxy-phenyl)-amine | 0.20 mmol, 75 mg | ClC1=CC(=CC(=N1)NC1=CC=C(C=C1)OC(F)(F)F)N1CCOCC1 | C16H15ClF3N3O2
reactant | sodium carbonate | 2N, 0.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-methanesulfonyl phenyl boronic acid | 0.24 mmol, 48 mg | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | water | O | H2O
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.010 mmol, 11.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [6-(3-methanesulfonyl-phenyl)-4-morpholin-4-yl-pyridin-2-yl]-(4-trifluoromethoxy-phenyl)-amine | yield 30% | CS(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC(=N1)NC1=CC=C(C=C1)OC(F)(F)F)N1CCOCC1 | C23H22F3N3O4S
